US07456177B2
Preparation of 3-Benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one
To 3-benzyl-3-aza-bicyclo[3.2.1]octan-6-one (3.2 mmol) was taken up in Brederick's reagent (tris-(N,N-dimethylamino)methane, 10 mL) and heated for 8 h at 100° C. Excess Brederick's was removed in vacuo and the crude product was used as is in subsequent steps. 1H NMR (CDCl3, 400 MHz) δ 7.50 (m, 5H), 3.56 (s, 3H), 2.99 (s, 6H), 2.40–2.20 (m, 4H), 1.95 (m, 2H), 2.56 (m, 2H); APCl MS m/z 271.3 (M+H)+.

reactant | 3-benzyl-3-aza-bicyclo[3.2.1]octan-6-one | 3.2 mmol | C(C1=CC=CC=C1)N1CC2CC(C(C1)C2)=O | C14H17NO
solvent | Brederick's reagent | 10 mL | CC(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 3-Benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one | C(C1=CC=CC=C1)N1CC2C(C(C(C1)C2)=O)=CN(C)C | C17H22N2O
